US07834009B2
A solution of N-{3-[1-(4-fluoro-benzyl)-4-hydroxy-5-(3-methyl-but-2-enyl)-2-oxo-1,2,5,6-tetrahydro-pyridin-3-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide (60 mg, 0.107 mmol) in ethyl acetate (2 mL) was treated with 5 wt % Pd/C (10 mg). The reaction was stirred under a hydrogen environment (1 atm) for 12 h and filtered through Celite. The filtrate was concentrated in vacuo to give N-{3-[1-(4-fluoro-benzyl)-4-hydroxy-5-(3-methyl-butyl)-2-oxo-1,2,5,6-tetrahydro-pyridin-3-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide (54 mg, 90%) as a white solid. 1H NMR (400 MHz, CDCl3) δ: 0.78-0.83 (m, 6H), 0.95-1.12 (m, 2H), 1.31-1.45 (m, 2H), 1.64-1.73 (m, 1H), 2.50-2.55 (m, 1H), 3.06 (s, 3H), 3.18 (dd, 1H, J1=12.7 Hz, J2=4.3 Hz), 3.52 (dd, 1H, J1=12.9 Hz, J2=5.0 Hz), 4.31 (d, 1H, J=14.9 Hz), 4.93 (d, 1H, J=14.7 Hz), 6.84 (br s, 1H), 7.06 (t, 2H, J=8.6 Hz), 7.23-7.29 (m, 3H), 7.64 (dd, 1H, J1=8.7 Hz, J2=2.3 Hz), 7.68 (d, 1H, J=2.3 Hz). LC-MS (ESI) calculated for C25H29FN4O6S2: 564.7, found 565.5 [M+H+].

reactant | N-{3-[1-(4-fluoro-benzyl)-4-hydroxy-5-(3-methyl-but-2-enyl)-2-oxo-1,2,5,6-tetrahydro-pyridin-3-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide | 0.107 mmol, 60 mg | FC1=CC=C(CN2C(C(=C(C(C2)CC=C(C)C)O)C2=NS(C3=C(N2)C=CC(=C3)NS(=O)(=O)C)(=O)=O)=O)C=C1 | C25H27FN4O6S2
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | N-{3-[1-(4-fluoro-benzyl)-4-hydroxy-5-(3-methyl-butyl)-2-oxo-1,2,5,6-tetrahydro-pyridin-3-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide | 54 mg, 90% | FC1=CC=C(CN2C(C(=C(C(C2)CCC(C)C)O)C2=NS(C3=C(N2)C=CC(=C3)NS(=O)(=O)C)(=O)=O)=O)C=C1 | C25H29FN4O6S2
